US03998832
Thus 1 part of triphenylcarbinol is reacted with 2 parts of malonic acid at 170° for three hours to provide 3,3,3-triphenylpropionic acid and this acid is converted into the acid chloride by reaction with thionyl chloride. Reacting the acid chloride with 2 parts of 2-azabicyclo[2.2.2 ]octane provides the amide, 2-(3,3,3-triphenylpropionyl)-2-azabicyclo[2.2.2 ]octane and reduction of this amide with 1 part of LiAlH4 in tetrahydrofuran provides 2-(3,3,3-triphenylpropyl)-2-azabicyclo[2.2.2 ] octane. The addition of concentrated hydrochloric acid to an ethereal solution of above amine provides 2-(3,3,3-triphenyl propyl)-1-azabicyclo[2.2.2] octane hydrochloride, melting at 221°-223° C.

reactant | triphenylcarbinol | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 3,3,3-triphenylpropionic acid | C1(=CC=CC=C1)C(CC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O2
